US09278085B2
(E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enenitrile (178 mg, 0.59 mmol) was dried azeotropically with toluene in vacuo (3×2 mL), redissolved into toluene (3 mL) and cooled to 0° C. DIBALH (1.0 M in heptane, 0.9 mmol) was added over 3 minutes dropwise. After 1 h, H2O (2 ml) and aqueous H2SO4 (6 mL 2.5 M) were added and the mixture let warm to room temperature for 2.5 h. MTBE (5 mL) was added, the layers separated and the aqueous phase extracted 3×5 mL MTBE. The combined organics were washed with brine (10 mL), dried over anhydrous Na2SO4 and concentrated to give (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enal as a colorless oil.

reactant | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enenitrile | 0.59 mmol, 178 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C/C=C(/CCCC#N)\C | C19H27NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | DIBALH | 0.9 mmol, 1.0 M | CC(C)C[AlH]CC(C)C
reactant | H2SO4 | 2.5 M, 6 mL | OS(=O)(=O)O | H2O4S
solvent | MTBE | 5 mL | CC(C)(C)OC | C5H12O
solvent | H2O | 2 ml | O | H2O
product | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enal | COC1=C(C(=C(C(=C1C)C)OC)C)C/C=C(/CCCC=O)\C | C19H28O3
